US08389513B2
3-Fluoro-pyridine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide
The condensation of (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate XI-1) and 3-fluoro-pyridine-2-carboxylic acid following procedure I yielded the title compound as a colorless solid. MS (ISP): m/z=383.2 [M+H]+.

reactant | (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OCC1(F)F)N)C)F | C11H12F3N3O
reactant | 3-fluoro-pyridine-2-carboxylic acid | FC=1C(=NC=CC1)C(=O)O | C6H4FNO2
product | 3-Fluoro-pyridine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OCC([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C1=NC=CC=C1F)(F)F | C17H14F4N4O2
